US08252797B2
4-{4-[2,6-Dioxo-1,3-dipropyl-7-(2-trimethylsilanyl-ethoxymethyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]-phenoxymethyl}-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester
A mixture of 8-(4-hydroxy-phenyl)-1,3-dipropyl-7-(2-trimethylsilanyl-ethoxymethyl)-3,7-dihydro-purine-2,6 dione (100 mg, 0.231 mmol), 4-methanesulfonyl methyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (82 mg, 0.254 mmol) and K2CO3 (63 mg, 0.462 mmol) in DMF (8 ml) was heated at 80° C. for 3 hrs. The reaction mixture was filtered through celite and washed with ethyl acetate. The filtrate was washed with water, brine, dried over sodium sulphate, filtered and concentrated under vacuum. The residue obtained was purified by column chromatography to offer 4-{4-[2,6-dioxo-1,3-dipropyl-7-(2-trimethylsilanyl-ethoxymethyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]-phenoxymethyl}-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester as a yellow oil (110 mg, 36%).

reactant | 8-(4-hydroxy-phenyl)-1,3-dipropyl-7-(2-trimethylsilanyl-ethoxymethyl)-3,7-dihydro-purine-2,6 dione | 0.231 mmol, 100 mg | OC1=CC=C(C=C1)C1=NC=2N(C(N(C(C2N1COCC[Si](C)(C)C)=O)CCC)=O)CCC | C23H34N4O4Si
reactant | 4-methanesulfonyl methyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 0.254 mmol, 82 mg | COC(=O)C1(N(CC(C1)S(=O)(=O)C)C(=O)OC(C)(C)C)C | C13H23NO6S
reactant | K2CO3 | 0.462 mmol, 63 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 4-{4-[2,6-Dioxo-1,3-dipropyl-7-(2-trimethylsilanyl-ethoxymethyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]-phenoxymethyl}-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | COC(=O)C1N(CC(C1)COC1=CC=C(C=C1)C1=NC=2N(C(N(C(C2N1COCC[Si](C)(C)C)=O)CCC)=O)CCC)C(=O)OC(C)(C)C | C35H53N5O8Si
